US07960375B2
8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid methyl amide
11.86 g (26.4 mmoles) of 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid phenyl ester are stirred with a solution of 43 ml of methylamine (˜8M) in ethanol at room temperature for 24 hours. The separated crystals are filtered off and washed with ethanol. Thus 8.87 g (87%) of the desired compound (yellow) melting at 196-198° C. are obtained.

reactant | 8-chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid phenyl ester | 26.4 mmoles, 11.86 g | C1(=CC=CC=C1)OC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C24H18ClN3O4
reactant | methylamine | ˜8M, 43 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 8-Chloro-4-methyl-1-(3-methyl-4-nitrophenyl)-3H-2,3-benzodiazepine-3-carboxylic acid methyl amide | 8.87 g, 87% | CNC(=O)N1N=C(C2=C(C=C1C)C=CC(=C2)Cl)C2=CC(=C(C=C2)[N+](=O)[O-])C | C19H17ClN4O3
